US04399141
Step G: Preparation of 2-Methoxy-5-methylene-10-hydroximino-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
A solution of 2-methoxy-5-methylene-10-oxo-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (9.7 g, 0.0388 mol), hydroxylamine hydrochloride (3.42 g, 0.0492 mol), and sodium acetate (4.26 g, 0.0519 mol) in methanol (194 ml) is heated under reflux for 2 hours. The solvent is removed under reduced pressure, the residue is slurried in water (200 ml), the pH is adjusted to 8 with concentrated aqueous ammonia, and the slurry is extracted with ether (3×105 ml). The combined extracts are dried over MgSO4 and filtered, and the filtrate is evaporated to yield 10.1 g (98%) of crude material. A sample recrystallized from ether has m.p. 125°-127° C.

reactant | 2-methoxy-5-methylene-10-oxo-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 0.0388 mol, 9.7 g | COC1=CC2=C(C(C3=C(C(C2)=O)C=CC=C3)=C)C=C1 | C17H14O2
reactant | hydroxylamine hydrochloride | 0.0492 mol, 3.42 g | Cl.NO
reactant | sodium acetate | 0.0519 mol, 4.26 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 194 ml | CO | CH4O
product | 2-Methoxy-5-methylene-10-hydroximino-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 10.1 g, 98% | COC1=CC2=C(C(C3=C(C(C2)=NO)C=CC=C3)=C)C=C1 | C17H15NO2
